US09371333B2
6-Amino-8-(3,4,5-trifluoro-phenyl)-8H-[1,3]dioxolo[4,5-g]chromene-7-carboxylic acid ethyl ester (40)
3,4-Methylenedioxyphenol (166 mg, 1.2 mmol), 3,4,5-trifluorobenzaldehyde (160 mg, 1 mmol) and ethyl cyanoacetate (113 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μL) and then stirred at 80° C. under LC-MS control till the reaction was complete. The reaction mixture was cooled down to room temperature, diluted with water to about 15 ml, stirred for 1 h, solids were collected by filtration, washed with 60% aq. ethanol and dried (280 mg, 0.71 mmol, 71%).

reactant | 3,4-Methylenedioxyphenol | 1.2 mmol, 166 mg | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | 3,4,5-trifluorobenzaldehyde | 1 mmol, 160 mg | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
reactant | ethyl cyanoacetate | 1 mmol, 113 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 50 μL | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-Amino-8-(3,4,5-trifluoro-phenyl)-8H-[1,3]dioxolo[4,5-g]chromene-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(OC=2C=C3C(=CC2C1C1=CC(=C(C(=C1)F)F)F)OCO3)N | C19H14F3NO5
